US06187802B1
A suspension of 1-[1-(4-chlorophenyl)cyclobutyl]-2-(2-imidazolin-2 ylthio)ethanone hydrobromide (2.4 g—prepared in a manner similar to that described above) in acetic acid (6 ml) was heated under reflux for 16 hours, then allowed to cool to ambient temperature. The solvent was removed in vacuo, the residue was triturated with ether (50 ml), and the resulting solid was collected by filtration, washed with ether (50 ml), dried in vacuo at ambient temperature, and recrystallised from methanol. The resulting solid was collected by filtration and dried in vacuo at ambient temperature to give 3-[1-(4-chlorophenyl)cyclobutyl]-5,6-dihydroimidazo-[2,1-b]thiazole hydrobromide as a white solid (1.4 g), m.p. 258-260° C.

reactant | 1-[1-(4-chlorophenyl)cyclobutyl]-2-(2-imidazolin-2 ylthio)ethanone hydrobromide | Br.ClC1=CC=C(C=C1)C1(CCC1)C(CSC=1NCCN1)=O
solvent | acetic acid | 6 ml | C(C)(=O)O | C2H4O2
product | 3-[1-(4-chlorophenyl)cyclobutyl]-5,6-dihydroimidazo-[2,1-b]thiazole hydrobromide | 1.4 g | Br.ClC1=CC=C(C=C1)C1(CCC1)C=1N2C(SC1)=NCC2 | InChI=1S/C15H15ClN2S.BrH/c16-12-4-2-11(3-5-12)15(6-1-7-15)13-10-19-14-17-8-9-18(13)14;/h2-5,10H,1,6-9H2;1H
